US05672715
Preparation of 2-Chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester.
To a slurry of 2.5 g of 2-chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid (Ex. 3) in 50 ml of methylene chloride was added 10 mL of oxalyl chloride followed by catalytic DMF. The solution was stirred for one hour and concd in vacuo. The resultant residue was diluted in 2-propanol and heated to 50° C. for one hour. The reaction was poured onto water and extracted into diethyl ether. The combined organic extracts were washed with brine and 2.5N sodium hydroxide solution, dried and concd to give a material which contained the desired product and a bi-product. Chromatographic purification (silica, 10% ethyl acetate in hexanes) afforded 1.0 g of 2-chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester in a 36% yield: mp 90° C.; 1HNMR (CDCl3) δ 10.04 (s, 1H), 7.9 (d, 1H, J=7.6), 7.25 (d, 1H, J=9.2), 5.23 (m, 1H), 4.11 (s, 3H), 1.35 (d, 6H, J=6.0).

reactant | 2-chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid | 2.5 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1C=O)C(F)(F)F)C | C13H7ClF4N2O3
reactant | oxalyl chloride | 10 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-Chloro-4-fluoro-5-[4-formyl-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]benzoic acid, 1-methylethyl ester | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)C1=NN(C(=C1C=O)C(F)(F)F)C | C16H13ClF4N2O3
